### PR TITLE
Formalize refutations: 1692 -> 47, 1832, 2441, 3050, 3456, 4065

### PR DESCRIPTION
**Pull request by Aaron1011**
This is based on this paper describing a proof strategy for the above non-implications:
https://leanprover.zulipchat.com/#narrow/stream/458659-Equational/topic/Proposed.20new.20target.3A.2063.20and.201692.20.28.22Dupont.20and.20Dupond.22.29/near/477252513

There's still quite a bit of room for cleanup (e.g. factoring out common code from several `match` branches). It's also very likely that there are simpler ways to prove some of the longer lemmas (e.g. `partial_function`), as I wasn't working off of the above paper for those proofs. However, this is now in a state where it's ready for review - I'm happy to spend more time minimizing this if it would be useful.

### CODE REVIEW

File: equational_theories/ManuallyProved/Equation1692.lean [hunk 1]
```diff
@@ -0,0 +1,3407 @@
...
+  simp only [TreeNode.getData, XVals.x_vals]
+  simp
+
+lemma f_neg_b {other_vals: XVals} (t: @TreeNode other_vals) {n: ℕ} (hvals: (f_data n).cur = other_vals): f (-t.getData.b) = t.left.getData.b := by
+  have eq_tree: -t.getData.b = t.left.getData.a := by
+    simp [TreeNode.getData]
+  rw [eq_tree]
+  rw [f_eval_at (n := n) _ hvals]
+
+-- Proof of our non-implications. The general strategy is to obtain a particular support elemenet
```
Comment (teorth) [inline equational_theories/ManuallyProved/Equation1692.lean:2751]: "elemenet" -> "element"

File: equational_theories/ManuallyProved/Equation1692.lean [hunk 2]
```diff
@@ -0,0 +1,3407 @@
...
+@[irreducible] noncomputable def g_to_num (g: G): ℕ := biject_with_zero g
+
+def g_enum_inverse (g: G): g_enumerate (g_to_num g) = g := by
+  simp [g_enumerate, g_to_num]
+
+lemma g_num_zero_eq_zero: g_to_num 0 = 0 := by
+  simp [g_to_num, biject_with_zero]
+
+
+-- Linear independence alone is insufficient to prove this - we could have an alterate definition of TreeNode
```
Comment (teorth) [inline equational_theories/ManuallyProved/Equation1692.lean:1861]: "alterate" -> "alternate"

**Comment by teorth** [comment]
Wow, from two pages of human written notes to 3407 lines of Lean - but perhaps we don't have enough Mathlib support for trees and have to set up quite a bit of API.  Given that this is a terminal point in the project (we don't need this machinery to prove anything else in the graph), probably there isn't a strong need to optimize it, so long as it compiles without running out of heartbeats (which has been our basic standard for whether a Lean proof is good enough for our codebase).

One could mention this PR in https://leanprover.zulipchat.com/#narrow/stream/458659-Equational/topic/Proposed.20new.20target.3A.2063.20and.201692.20.28.22Dupont.20and.20Dupond.22.29/near/477252513 to get a few more eyeballs on it.

**Comment by pitmonticone** [comment]
Thank you very much @Aaron1011 for your PR! 

@teorth I believe it can be golfed quite a bit. I'll do it later today.

File: equational_theories/ManuallyProved/Equation1692.lean (hunk 2 above)
Comment (pitmonticone) [reply equational_theories/ManuallyProved/Equation1692.lean:1861]: Done.

File: equational_theories/ManuallyProved/Equation1692.lean (hunk 1 above)
Comment (pitmonticone) [reply equational_theories/ManuallyProved/Equation1692.lean:2751]: Done.
